US04870074
Preparation of 4-amino-5-chloro-2-hexyloxybenzoic acid
A mixture of 4-acetylamino-5-chloro-2-hexyloxybenzoic acid methyl ester (2.1 g), ethanol (10 ml), and water (30 ml) containing sodium hydroxide (2.6 g) is heated under reflux for 4 hours. The ethanol is distilled off under reduced pressure, and the resulting solution is acidified with dilute hydrochloric acid and extracted with chloroform. The organic layer is treated in the same manner as in part (2) of this Reference Example to give the title compound.

reactant | 4-acetylamino-5-chloro-2-hexyloxybenzoic acid methyl ester | 2.1 g | COC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OCCCCCC)=O | C16H22ClNO4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 4-amino-5-chloro-2-hexyloxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OCCCCCC | C13H18ClNO3
